US07674822B2
1-Carboxymethoxy-7-cyclohexylamino-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid
Step C Hydrolysis: To a solution of 7-Cyclohexylamino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (30 mg, 0.07 mmol) in THF/H2O (1.5 mL/0.5 mL) was added 2.0M LiOH (0.15 mL, 0.35 mmol). The reaction was allowed to stir at ambient temperature over a 16-hour period, after which it was judged complete by LCMS. The THF was removed in vacuo and the resultant aqueous solution was acidified to pH ˜1-2 using 10% HCl to precipitate the desired compound which was filtered, rinsed with water, and oven-dried (55° C.). No purification was necessary. (Yield=20 mg, 71%)

reactant | 7-Cyclohexylamino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.07 mmol, 30 mg | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)NC2CCCCC2)S1)OCC(=O)OCC | C22H25NO5S2
reactant | LiOH | 0.35 mmol, 2.0M, 0.15 mL | [Li+].[OH-]
solvent | THF H2O | 1.5 mL | C1CCOC1.O
product | 1-Carboxymethoxy-7-cyclohexylamino-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid | C(=O)(O)COC1=C(SC2=C1SC=1C(=CC=CC21)NC2CCCCC2)C(=O)O | C19H19NO5S2
